Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: PODIATRY
 
Allergies: 
Penicillins
 
Attending: ___
 
Chief Complaint:
right foot ulcer
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
___ y/o DM M with a hx of presents hypertension and 
hypercholesteremia, who is well known to the podiatry service 
presents with a right plantar forefoot ulcer. He is a patient of 
Dr. ___ originally missed his appointment today and wanted 
to have his foot evaluated before the infection worsened. He
presented today in athletic running shoes.

 
Past Medical History:
DM Type II
Hypertension
Hypercholesterolemia
.
PSH:
Appendectomy

 
Social History:
___
Family History:
Father  ___ - Type II 
Mother  Cancer - ___ Hyperlipidemia
 
Physical Exam:
VSS, afebrile
Gen: NAD, AAOx3, pleasant
CV: RRR
Pulm: CTAB
Abd: soft, NT/ND
RLE: DP and ___ pulses palpable. CFT brisk to all digits. Skin 
temp warm to warm proximal to distal. Ulcer encompassing plantar 
aspect of foot along metatarsal head level, most notably at ___ 
MPJ. Minimal surrounding erythema and edema. Does not probe 
deeply or track to the level of bone. No exudate. No fluctance. 
Gross sensation diminished. 
 
Pertinent Results:
___ 06:30AM BLOOD WBC-10.2 RBC-3.62* Hgb-10.0* Hct-29.8* 
MCV-82 MCH-27.5 MCHC-33.4 RDW-12.5 Plt ___
___ 03:45PM BLOOD WBC-13.1* RBC-4.19* Hgb-11.5* Hct-34.9* 
MCV-83 MCH-27.5 MCHC-33.0 RDW-12.7 Plt ___
___ 03:45PM BLOOD Neuts-72.5* ___ Monos-6.3 Eos-1.7 
Baso-0.7
___ 06:30AM BLOOD Plt ___
___ 03:45PM BLOOD Plt ___
___ 06:30AM BLOOD Glucose-120* UreaN-25* Creat-1.5* Na-137 
K-4.5 Cl-100 HCO3-28 AnGap-14
___ 03:45PM BLOOD Glucose-316* UreaN-26* Creat-1.6* Na-132* 
K-4.2 Cl-96 HCO3-26 AnGap-14
___ 06:30AM BLOOD Calcium-8.9 Phos-4.6* Mg-1.9
___ 07:00AM BLOOD Vanco-19.9
___ 06:30AM BLOOD Vanco-11.5
___ 03:45PM BLOOD HoldBLu-HOLD
___ 03:50PM BLOOD Lactate-1.0

___: R FXR: IMPRESSION: Plantar soft tissue ulcer at the 
level of the metatarsal heads with no radiographic evidence for 
osteomyelitis or soft tissue gas.  

___: RLE US: IMPRESSION:  No evidence of deep vein thrombosis 
in the right lower extremity.

 
Brief Hospital Course:
Mr. ___ presented to the Emergency Department at ___ after 
missing a scheduled appointment with Dr. ___ concern that 
his infection was worsening. He was admitted on ___ for a 
right foot infection. During his stay, he received IV 
antibiotics to fight the cellulitis and xrays were obtained and 
showed no osteomyelitis. The wound was lightly debrided at the 
bedside during his stay and he was fitted for a bivalve cast by 
an orthotech. He was given strict instructions on touch down 
weight bearing to the heel using a walker or crutches. Physical 
therapy worked with him while in the hospital and cleared him 
for home with such. Prior to discharge his vital signs were 
stable and neurovascular status intact. He understood all of his 
discharge instructions and is to follow up with Dr. ___ in 
approximately 1 week. 
 
Medications on Admission:
omeprazole ec 20", simvastatin 40 qhs, glyburide 5', lisinopril 
5', sildenafil 100 prn
 
Discharge Medications:
1. Clindamycin 150 mg PO Q6H 
RX *clindamycin HCl 150 mg 1 capsule(s) by mouth every six (6) 
hours Disp #*40 Capsule Refills:*0
2. Aspirin 81 mg PO DAILY 
3. Atenolol 25 mg PO DAILY 
4. Glargine 40 Units Breakfast
Insulin SC Sliding Scale using REG Insulin
5. Lisinopril 5 mg PO DAILY 
6. Omeprazole 20 mg PO BID 
7. Simvastatin 40 mg PO DAILY 

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
right foot ulcer
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).
 
Discharge Instructions:
Please follow these guidelines unless your physician has 
specifically instructed you otherwise. Please call our office 
nurse if you have any questions. Dial 911 if you have any 
medical emergency.

ACTIVITY:

There are restrictions on activity. On your right side you are 
TOUCH DOWN WEIGHT BEARING TO THE HEEL IN A BIVALVE CAST AND 
CRUTCHES/WALKER for ___ weeks. You should keep this site 
elevated when ever possible (above the level of the heart!) 
Physical therapy worked with you in the hospital and gave 
instructions on weight bearing: please follow these accordingly. 


No driving until cleared by your Surgeon.

PLEASE CALL US IMMEDIATELY FOR ANY OF THE FOLLOWING PROBLEMS:

Redness in or drainage from your leg wound(s).

New pain, numbness or discoloration of your foot or toes.

Watch for signs and symptoms of infection. These are: a fever 
greater than 101 degrees, chills, increased redness, or pus 
draining from the incision site. If you experience any of these 
or bleeding at the incision site, CALL THE DOCTOR.

Exercise:

Limit strenuous activity for 6 weeks.

No heavy lifting greater than 20 pounds for the next ___ days.

Try to keep leg elevated when able.

BATHING/SHOWERING:

You may shower immediately upon coming home, but you must keep 
your dressing CLEAN, DRY and INTACT. You can use a shower bag 
taped around your ankle/leg or hang your foot/leg outside of the 
bathtub. 

WOUND CARE:

You will be getting every other day dressing changes by a 
visiting nurse with betadine paint to the ulceration and a dry 
sterile dressing. You may cleanse the foot with peroxide. Once 
the dressing is in place, avoid getting it wet. 

MEDICATIONS:

Unless told otherwise you should resume taking all of the 
medications you were taking before surgery. You will be given a 
new prescription for infection which will be taken every 6 
hours. 

CAUTIONS:

NO SMOKING! We know you've heard this before, but it really is 
an important step to your recovery. Smoking causes narrowing of 
your blood vessels which in turn decreases circulation. If you 
smoke you will need to stop as soon as possible. Ask your nurse 
or doctor for information on smoking cessation.

If a follow up appointment was not made prior to your discharge, 
please call the office on the first working day after your 
discharge from the hospital to schedule a follow-up visit. This 
should be scheduled on the calendar for seven to fourteen days 
after discharge. Normal office hours are ___ 
through ___.

PLEASE FEEL FREE TO CALL THE OFFICE WITH ANY OTHER CONCERNS OR 
QUESTIONS THAT MIGHT ARISE.

 
Followup Instructions:
___